US06774259B2
N-[(S)-Ethoxycarbonyl-1-Butyl]-(S)-Alanine
Into a tank, fitted with a stirrer, introduce 25 kg of L-alanine dissolved in water, 1.1 kg of sodium hydroxide and 36 kg of ethyl 2-oxopentanoate. Stir the reaction mixture for 30 minutes. Into a hydrogenation apparatus introduce 5% palladium-on-carbon suspended in water, then the mixture obtained above. Hydrogenate at ambient temperature at a pressure of 1 bar until the theoretical amount of hydrogen has been absorbed. Remove the catalyst by filtration, then add concentrated hydrochloric acid to the filtrate until a pH of 3 is obtained. Harvest the resulting solid by means of filtration, take up the cake in acetonitrile at reflux, filter while hot and then allow to crystallize.

reactant | L-alanine | 25 kg | N[C@@H](C)C(=O)O | C3H7NO2
reactant | sodium hydroxide | 1.1 kg | [OH-].[Na+]
reactant | ethyl 2-oxopentanoate | 36 kg | O=C(C(=O)OCC)CCC | C7H12O3
solvent | water | O | H2O
catalyst | palladium-on-carbon | [Pd] | Pd
product | N-[(S)-Ethoxycarbonyl-1-Butyl]-(S)-Alanine | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)O | C10H19NO4
